Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
right sided chest pain
 
Major Surgical or Invasive Procedure:
___
Right pleural chest tube placement

 
History of Present Illness:
Ms. ___ is a ___ c a PMH notable for a MVC on ___
resulting in multiple fractures including her sternum and
bilateral ribs p/w right chest pain and a R pleural effusion c/f
hemothorax. The chest pain began 2 and a half weeks ago as
intermittent and radiating to the R back and R flank.  Over the
last 2 days it had become constant, ___, and is described as
sharp, radiating to the throat, flank and back, is made worse by
deep breathing, movement, or lying supine.  There is not
associated SOB or dyspnea, other than the inability to take deep
breaths due to the pain.

Mrs. ___ initially presented to an OSH and underwent a
ECG that showed sinus tachycardia with non-specific T wave
changes and blood testing notable for a Hct of 32.1, a WBC of
9.3, a INR of 1.2, and normal LFTs and metabolic panel. She then
underwent a CTA PE protocol which was of suboptimal quality but
showed a water-attenuated simple effusion without loculation in
the R thorax. It also showed RLL collapse, no cardiomegaly, no
pericardial effusion, no PTX, and no large-vessel PE.  PNA and
subsegmental PEs could not be ruled out.  This scan was then
re-interpreted by the managing physician who felt that the
effusion was loculated and would require a thoracic surgeon for 
a
VATS decortication. She was then attempted to be transferred to
___ for continuity of care as that is where she was hospitalized
following her crash, but they were full and rejected the
transfer.  She was then transferred to ___.

In the ED she was found to be hemodynamically stable satting 
100%
on RA. Her labs were repeated and found to be stable. The extent
of her prior accident was noted to include fractures of 8 R 
ribs,
4 L ribs, her sternum, 3 sites in her pelvis, her L femur, her R
foot and tibia, and her R wrist. She has been living in a
___ rehabilitation facility since discharge and is
predominantly wheelchair bound, although has lately began to 
bear
some weight on her L leg. She denies fever, chills, SOB,
hemoptysis, palpitations and abdominal pain, and endorses blurry
vision in her R eye, fatigue, diarrhea, nausea, diffuse MSK 
pain,
headaches originating in her L temple, easy bruising and recent
depressed mood. Notably she has been taking Lovenox
prophylactically since her accident and orthopedic repairs, her
last dose being on ___ at 2100.

Her outside scan was reviewed with radiologists at ___ and
found to be of poor quality, but most likely unloculated, and
potentially of proteinaceous material, possibly evolving blood
products, given Houndsfield units of up to 30.

 
Past Medical History:
MVC w/ multiple fractures ___
s/p tonsillectomy
scabies
allergic rhinitis
obesity
gastroesophageal reflux
 
Social History:
___
FAMILY HISTORY:
Grandparents with HTN and DM. No history of bleeding or clotting
disorders.

 
Family History:
Grandparents with HTN and DM. No history of bleeding or clotting
disorders.

 
Physical Exam:
Temp: 99.1   HR: 95   BP: 134/72   RR: 16   O2 Sat: 100% RA
GENERAL        
[x] WN/WD  [x] NAD  [x] AAO  [ ] abnormal findings:

HEENT          
[x] NC/AT   [x] EOMI   [x] PERRL/A   [x] Anicteric
[x] OP/NP mucosa normal     [x] Tongue midline
[x] Palate symmetric  [x] Neck supple/NT/without mass
[x] Trachea midline [x] Thyroid nl size/contour
[ ] Abnormal findings:

RESPIRATORY    
[ ] CTA/P     [x] Excursion normal     [ ] No fremitus
[ ] No egophony    [ ] No spine/CVAT
[x] Abnormal findings: decreased breath sounds over the RML and
RLL lung fields

CARDIOVASCULAR 
[x] RRR    [x] No m/r/g    [x] No JVD   [x] PMI nl  [x] No edema
[x] Peripheral pulses nl    [x] No abd/carotid bruit
[ ] Abnormal findings:

GI             
[x] Soft    [x] NT   [x] ND  [x] No mass/HSM   [x] No hernia
[x] Abnormal findings: multiple tender, hard subcutaneous 
nodules
in the LLQ

GU             [x] Deferred  
[ ] Nl genitalia    [ ] Nl pelvic/testicular exam    [ ] Nl DRE
[ ] Abnormal findings:

NEURO          
[ ] Strength intact/symmetric    [ ] Sensation intact/ symmetric
[ ] Reflexes nl     [x] No facial asymmetry [x] Cognition intact
[x] Cranial nerves intact   [ ] Abnormal findings:

MS          
[x] No clubbing   [x] No cyanosis   [ ] No edema   [ ] Gait nl
[ ] No tenderness  [ ] Tone/align/ROM nl   [x] Palpation nl
[x] Nails nl   [x] Abnormal findings: tenderness over her R 
chest
and sternum, casts on her R foot and ankle, and her R wrist.

LYMPH NODES   
[x] Cervical nl      [x] Supraclavicular nl     [ ] Axillary nl
[ ] Inguinal nl   [ ] Abnormal findings:

SKIN           
[ ] No rashes/lesions/ulcers
[ ] No induration/nodules/tightening     [x] Abnormal findings:
multiple scars from recent orthopedic procedures on b/l
extremities, indurated nodules in LLQ of abdomen, multiple
tattoos

PSYCHIATRIC    
[x] Nl judgment/insight    [x] Nl memory   [x] Nl mood/affect
[ ] Abnormal findings:

 
Pertinent Results:
___ 11:00AM   WBC-9.1 RBC-3.85* HGB-10.1*# HCT-32.0* 
MCV-83# MCH-26.2# MCHC-31.6* RDW-14.2 RDWSD-42.6
___ 11:00AM   PLT COUNT-244
___ 11:00AM   ___ PTT-38.5* ___
___ 11:00AM   GLUCOSE-89 UREA N-5* CREAT-0.5 SODIUM-138 
POTASSIUM-3.8 CHLORIDE-101 TOTAL CO2-24 ANION GAP-17

___ CXR :
IN COMPARISON WITH THE STUDY OF ___, THERE HAS BEEN 
PLACEMENT OF A 
RIGHT CHEST TUBES AT THE BASE WITH DECREASE IN THE DEGREE OF 
PLEURAL EFFUSION. NO EVIDENCE OF PNEUMOTHORAX.  OTHERWISE LITTLE 
CHANGE. 

___ CXR :
Heart size and mediastinum are stable.  Bibasal pleural 
effusions are noted, small, unchanged.  There is no evidence of 
pneumothorax after removal of the right pigtail catheter.  Lung 
volumes remain low. 
  
Micro :
___ 2:38 pm PLEURAL FLUID

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Preliminary):    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary): 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

 
Brief Hospital Course:
Ms. ___ was admitted to the Thoracic Surgery service and 
evaluated by interventional pulmonology.  Her right pleural 
effusion was not loculated and a ___ Fr pleural pigtail drainage 
tube was placed on ___ by IP.  The drainage was 
serosanguinous and after 24 hours drained 800 cc's.  Her right 
sided chest pain was relieved once the tube was placed and she 
continued to progress well.  Her room air saturations were 96% 
following drainage and her chest xray improved dramatically 
noting a small pleural effusion.  

On ___ her tube was removed and a post pull CXR revealed no 
pneumothorax just a small right effusion. Her pain was relieved 
with scheduled Tramadol and occasional Oxycodone.

The Physical Therapy service evaluated her prior to her return 
to rehab and she is significantly limited in her mobility due to 
her weight bearing status. Her current restrictions will 
continue and be re evaluated by her orthopedic surgeon.  As her 
pulmonary issues have resolved she will return to ___ today 
for continued therapy.  She will return to see Dr. ___ IP 
in 4 weeks.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO Q8H 
2. Docusate Sodium 100 mg PO BID 
3. Enoxaparin Sodium 40 mg SC Frequency is Unknown 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
4. Gabapentin 300 mg PO TID 
5. Lidocaine 5% Patch 1 PTCH TD QAM 
6. Tizanidine 2 mg PO TID 
7. TraZODone 25 mg PO QHS:PRN sleep 

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H 
2. Docusate Sodium 100 mg PO BID 
3. Enoxaparin Sodium 40 mg SC DAILY 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
4. Gabapentin 300 mg PO TID 
5. Tizanidine 2 mg PO TID 
6. TraZODone 25 mg PO QHS:PRN sleep 
7. Bisacodyl 10 mg PR QHS:PRN constipation 
8. Milk of Magnesia 30 mL PO Q12H:PRN constipation 
9. Lidocaine 5% Patch 1 PTCH TD QAM 
10. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*60 Tablet Refills:*0
11. TraMADOL (Ultram) 50 mg PO QID 
RX *tramadol 50 mg 1 tablet(s) by mouth four times a day Disp 
#*60 Tablet Refills:*0

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Right pleural effusion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
* You were admitted to ___ with 
right sided chest pain due to an accumulation of fluid/blood 
around your right lung, likely from rib fractures.
* You improved following drainage of the fluid with a chest tube 
and your pain has decreased and your breathing has improved.
* You will return to rehab now so that you can continue 
rehabilitation from your accident.
* Continue to use your incentive spirometer 10 times an hour 
while awake. The more your Physical Therapist allows you to get 
up, the better.
* Your chest tube dressing can be removed on ___
* Shower daily. It's alright to get that chest tube site wet
* If you develop any fevers > 101, cough, increased shortness of 
breath or chest pain call Dr. ___ at ___.
 
Followup Instructions:
___